US05217845
3. 2,7-Bis(α-acetoxybenzyl)-9-phenylacridine (compound 3)
1 pbw of 2,7-bis(α-hydroxybenzyl)-9-phenylacridine is suspended in 4 pbw of acetone and heated for 1 hour under reflux with 0.8 pbw of acetic anhydride and 0.001 pbw of 4-dimethylaminopyridine. Water is then added to the mixture and the product is filtered off.

reactant | 2,7-bis(α-hydroxybenzyl)-9-phenylacridine | OC(C1=CC=CC=C1)C1=CC2=C(C3=CC(=CC=C3N=C2C=C1)C(C1=CC=CC=C1)O)C1=CC=CC=C1 | C33H25NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | 2,7-Bis(α-acetoxybenzyl)-9-phenylacridine | C(C)(=O)OC(C1=CC=CC=C1)C1=CC2=C(C3=CC(=CC=C3N=C2C=C1)C(C1=CC=CC=C1)OC(C)=O)C1=CC=CC=C1 | C37H29NO4
